US07495103B2
To a mixture of 2-bromo-4-tert-butyl-5-nitro-phenylamine (27.3 g, 100 mmol) in toluene (200 mL) and water (100 mL) was added Et3N (27.9 mL, 200 mmol), Pd(PPh3)2Cl2 (2.11 g, 3 mmol), CuI (950 mg, 0.5 mmol) and trimethylsilyl acetylene (21.2 mL, 150 mmol) under a nitrogen atmosphere. The reaction mixture was heated at 70° C. in a sealed pressure flask for 2.5 h., cooled down to room temperature and filtered through a short plug of Celite. The filter cake was washed with EtOAc. The combined filtrate was washed with 5% NH4OH solution and water, dried over Na2SO4 and concentrated. The crude product was purified by column chromatography (0-10% EtOAc/petroleum ether) to provide 4-tert-butyl-5-nitro-2-trimethylsilanylethynyl-phenylamine as a brown viscous liquid (25 g, 81%).

reactant | 2-bromo-4-tert-butyl-5-nitro-phenylamine | 100 mmol, 27.3 g | BrC1=C(C=C(C(=C1)C(C)(C)C)[N+](=O)[O-])N | C10H13BrN2O2
reactant | Et3N | 200 mmol, 27.9 mL | CCN(CC)CC | C6H15N
reactant | trimethylsilyl acetylene | 150 mmol, 21.2 mL | C[Si](C)(C)C#C | C5H10Si
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 3 mmol, 2.11 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.5 mmol, 950 mg | [Cu]I
product | 4-tert-butyl-5-nitro-2-trimethylsilanylethynyl-phenylamine | 25 g, 81% | C(C)(C)(C)C1=CC=C(C=C1[N+](=O)[O-])NC#C[Si](C)(C)C | C15H22N2O2Si
